Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ACOM aneurysm
 
Major Surgical or Invasive Procedure:
___ - Cerebral angiogram for stent-assisted coil 
embolization of ACOM aneurysm
 
History of Present Illness:
___ is a ___ year old female with a known ACOM aneurysm 
who presented electively on ___ for a cerebral angiogram 
for stent-assisted coil embolization.

 
Past Medical History:
- COPD
- History of tobacco use
- HTN
- Obesity
- OSA
- S/p dental extractions
 
Social History:
___
Family History:
Father deceased from cerebral aneurysm. Mother deceased from 
heart disease.
 
Physical Exam:
On Discharge:
-------------
General:

VS: T 97.8F, HR 82, BP 144/76, RR 18, O2Sat 97% on room air

Exam:

Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious [ ]None
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex [ ]None
Pupils: PERRL
EOMs: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Drift: [ ]Yes [x]No
Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor:

        Trap   Deltoid   Biceps   Triceps   Grip
Right   5      5         5        5         5
Left    5      5         5        5         5

        IP   Quad   Ham   AT   ___   ___
Right   5    5      5     5    5     5
Left    5    5      5     5    5     5

Sensation: Intact to light touch.

Puncture Site:
- Dressing clean, dry, intact
- Soft, no hematoma
- Palpable pulses
 
Pertinent Results:
Please see OMR for relevant laboratory and imaging results.
 
Brief Hospital Course:
___ year old female with a known ACOM aneurysm.

#ACOM aneurysm
The patient was taken to the Angiography Suite on ___ for 
a cerebral angiogram for stent-assisted coil embolization of the 
ACOM aneurysm. The procedure was uncomplicated. Please see OMR 
for further intraprocedural details. She was extubated in the 
Angiography Suite and recovered in the PACU. She was transferred 
to the step down unit postprocedurally for close neurologic 
monitoring. The patient remained neurologically stable. On 
___, she was afebrile with stable vital signs, mobilizing 
with an assistive device, tolerating a diet, voiding and 
stooling without difficulty, and her pain was well controlled 
with oral pain medications. She was discharged home with home ___ 
on ___ in stable condition.

#Disposition
___ was consulted and recommended discharge home with home ___. 
The patient was discharged home with home ___ on ___ in 
stable condition.
 
Medications on Admission:
- aspirin 325mg PO once daily
- clopidogrel 75mg PO once daily
- lisinopril 20mg PO once daily
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
Do not exceed 3000mg in 24 hours.  
2.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once daily Disp #*28 
Tablet Refills:*3 
3.  Clopidogrel 75 mg PO/NG DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once daily Disp #*28 
Tablet Refills:*3 
4.  Lisinopril 20 mg PO DAILY  
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ACOM aneurysm
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory with assistive device.
 
Discharge Instructions:
Care Of The Puncture Site:
- You will have a bandage over the puncture site. 
- Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
- Keep the puncture site clean with water and soap and dry it 
carefully.
- You may cover the puncture site with a Band-Aid if you wish.

Activity:
- You may gradually return to your normal activities, but we 
recommend that you take it easy for the next ___ hours to avoid 
bleeding from the puncture site.
- You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
- Heavy lifting, running, climbing, and other strenuous exercise 
should be avoided for 10 days. This is to prevent bleeding from 
the puncture site.
- You may take a shower, but do not go swimming or submerge 
yourself in water for 5 days after your procedure.

Medications:
- Resume your normal medications and begin new medications as 
directed.
- You may use acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
- You have been instructed to take aspirin and clopidogrel. Do 
not take any other blood thinning medications such as ibuprofen, 
warfarin (Coumadin), etc. until cleared by your neurosurgeon.

What You ___ Experience:
- Mild tenderness and bruising at the puncture site.
- Soreness in your arms from the intravenous lines.
- Mild to moderate headaches that last several days to a few 
weeks.
- Fatigue is very normal.
- Constipation is common. Be sure to drink plenty of fluids and 
eat a high fiber diet. You may also try an over-the-counter 
stool softener if needed.

Please Call Your Neurosurgeon At ___ For:
- Fever greater than 101.4 degrees Fahrenheit.
- Severe pain, redness, swelling, or drainage from the puncture 
site.
- Severe headaches not adequately relieved with prescribed pain 
medications.
- Extreme sleepiness or not being able to stay awake.
- Any new problems with your vision or ability to speak.
- Weakness or changes in sensation in your face, arms, or legs.
- Nausea or vomiting.
- Seizures.
- Blood in your urine or stool.
- Constipation.
 
Followup Instructions:
___